US05665718
A solution of 200 mg (0.54 mmol) of 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 4 ml of N,N-dimethylformamide was treated with 0.136 ml (1.65 mmol) of propylamine and stirred at room temperature under argon for 1.5 hrs. The solution was evaporated and the residue was triturated in 10 ml of water. The aqueous phase was extracted with methylene chloride and the combined extracts were washed twice with water, dried with sodium sulfate, filtered and evaporated. The combined crude products were chromatographed on 30 g of silica gel (ethyl acetate methylene chloride/methanol 9:1). There were obtained 126 mg of 8-chloro-3-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as a foam which was converted in acetonitrile with ethereal hydrochloric acid into the hydrochloride. By crystallization from hot acetonitrile there were obtained 102 mg (42%) of 8-chloro-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1.8) of m.p. 230°-240° (dec.).

reactant | 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.54 mmol, 200 mg | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CCl)C)=O)C1 | C15H11Cl2N5O2
reactant | propylamine | 1.65 mmol, 0.136 ml | C(CC)N | C3H9N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 8-chloro-3-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 126 mg | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CNCCC)C)=O)C1 | C18H19ClN6O2
